US09388173B2
Step 1: 4,6-dichloronicotinaldehyde
To a solution of ethyl 4,6-dichloronicotinate (500 mg, 2.43 mmol) in DCM at −78° C., DIBAL-H (2.67 mL, 2.67 mmol) was added dropwise and stirred for 3 h at −78° C. The mixture was allowed to warm up to 0° C. then water (0.12 mL) was added dropwise to the mixture followed by aq. NaOH (15%, 0.12 mL). H2O (0.3 mL) was added then the mixture was warmed up to room temperature and stirred for 15 min and the organic layer collected, dried over MgSO4 and filtered with the filtrate concentrated to give the desired product with was used without further purification (280 mg, Yield 65%). LCMS (m/z): 176.1 [M+H].

reactant | ethyl 4,6-dichloronicotinate | 2.43 mmol, 500 mg | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | DIBAL-H | 2.67 mmol, 2.67 mL | CC(C)C[AlH]CC(C)C
reactant | water | 0.12 mL | O | H2O
reactant | NaOH | 0.12 mL | [OH-].[Na+]
reactant | H2O | 0.3 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4,6-dichloronicotinaldehyde | Yield 65% | ClC1=CC(=NC=C1C=O)Cl | C6H3Cl2NO
